### PR TITLE
Sorting: Swap the names of Sorted_sort and LocallySorted_sort

### LINKED ISSUE #11884: stdlib: The lemmas Sorted_sort and LocallySorted_sort have swapped names
#### Description of the problem

```coq
Sorted_sort : forall l, LocallySorted leq (sort l)
LocallySorted_sort : forall l, Sorted leq (sort l)
```

[In MergeSort](https://github.com/coq/coq/blob/7ba059507b67b1f6ea3566a5d1dee40f6af78316/theories/Sorting/Mergesort.v#L233-L239)

#### Coq Version

8.11, master

### PR DESCRIPTION
**Pull request by Lysxia**
**Kind:** bug fix.

Fixes / closes #11884

It's a breaking change, so I don't know if it's worth it, but here's the patch anyway.

- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

File: theories/Sorting/Mergesort.v [hunk 1]
```diff
@@ -230,12 +230,12 @@ Proof.
...
 
-Theorem Sorted_sort : forall l, Sorted (sort l).
+Theorem LocallySorted_sort : forall l, Sorted (sort l).
 Proof.
 intro; apply Sorted_iter_merge. constructor.
 Qed.
 
-Corollary LocallySorted_sort : forall l, Sorted.Sorted leb (sort l).
+Corollary Sorted_sort : forall l, Sorted.Sorted leb (sort l).
 Proof. intro; eapply Sorted_LocallySorted_iff, Sorted_sort; auto. Qed.
```
Comment (herbelin) [inline theories/Sorting/Mergesort.v]: You have to change also the proof here:
```suggestion
Proof. intro; eapply Sorted_LocallySorted_iff, LocallySorted_sort; auto. Qed.
```

**Review by herbelin — APPROVED** [review]
Thanks a lot, my fault. It is a breaking change but it has to be changed and I suspect it would not affect so many developments.

Would you be ok to add a change log (call `dev/tools/make-changelog.sh`) and select 10 and "Changed"?

**Comment by herbelin** [comment]
The CI will have to be restarted (but I did not yet manage to do so when it happens to me, so I cannot help).

I'm also assigning, and will merge on Wednesday if CI green and noone objects.

**Comment by Lysxia** [comment]
Thanks!
